US06777428B1
1.25 g (0.046 mol) of 4-(3-nitrobenzoyl)piperidine HCl was refluxed for 4.5 h in trifluoroacetic anhydride (7.5 mL). The reaction was monitored by TLC [silica gel/AcOEt-hexane (40/60)]. The solution was allowed to cool to room temperature and the solution was concentrated under reduce pressure. The residue was taken up with isopropanol (2×5 mL) and concentrated to dryness to give 4-(3-nitrobenzoyl)-1-trifluoromethylcarbonylpiperidine as a light colored solid.

reactant | 4-(3-nitrobenzoyl)piperidine HCl | 0.046 mol, 1.25 g | Cl.[N+](=O)([O-])C=1C=C(C(=O)C2CCNCC2)C=CC1
reactant | trifluoroacetic anhydride | 7.5 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 4-(3-nitrobenzoyl)-1-trifluoromethylcarbonylpiperidine | [N+](=O)([O-])C=1C=C(C(=O)C2CCN(CC2)C(=O)C(F)(F)F)C=CC1 | C14H13F3N2O4
